* NGSPICE file created from invx1.ext - technology: sky130A
.subckt invx1 a z vdd vss
X0 z a vss vss sky130_fd_pr__nfet_01v8 ad=0.1764 pd=1.68 as=0.1764 ps=1.68 w=0.42 l=0.15
X1 z a vdd vdd sky130_fd_pr__pfet_01v8 ad=0.5292 pd=3.36 as=0.5292 ps=3.36 w=1.26 l=0.15
C0 a z 0.03145f
C1 vdd z 0.12065f
C2 a vdd 0.13501f
C3 z vss 0.1529f
C4 a vss 0.33416f
C5 vdd vss 0.76353f
